### PR TITLE
[Merged by Bors] - feat(Data/Set): add `subsingleton_iff_eq_empty_or_singleton`

### PR DESCRIPTION
**Pull request by JadAbouHawili**
---
proof needs to be golfed, got lost in the api so any feedback/review is appreciated

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Set/Subsingleton.lean [hunk 1]
```diff
@@ -63,6 +63,18 @@ theorem subsingleton_iff_singleton {x} (hx : x ∈ s) : s.Subsingleton ↔ s = {
 theorem Subsingleton.eq_empty_or_singleton (hs : s.Subsingleton) : s = ∅ ∨ ∃ x, s = {x} :=
   s.eq_empty_or_nonempty.elim Or.inl fun ⟨x, hx⟩ => Or.inr ⟨x, hs.eq_singleton_of_mem hx⟩
 
+theorem Subsingleton.subsingleton_iff_eq_empty_or_singleton  : s.Subsingleton ↔ s = ∅ ∨ ∃ x, s = {x} := by
```
Comment (themathqueen) [inline Mathlib/Data/Set/Subsingleton.lean]:
```suggestion
theorem subsingleton_iff_eq_empty_or_singleton : s.Subsingleton ↔ s = ∅ ∨ ∃ x, s = {x} := by
```

File: Mathlib/Data/Set/Subsingleton.lean [hunk 2]
```diff
@@ -63,6 +63,18 @@ theorem subsingleton_iff_singleton {x} (hx : x ∈ s) : s.Subsingleton ↔ s = {
...
+  constructor
+  intro h
+  exact Set.Subsingleton.eq_empty_or_singleton h
+  intro h
+  rcases h with h|h
+  rw [h]
+  simp
+  obtain ⟨a,ha⟩ := h
+  subst ha
+  simp
```
Comment (themathqueen) [inline Mathlib/Data/Set/Subsingleton.lean]: This proof fails in the lint. You should always fix the warnings that arise when you write stuff.
So (without golfing the proof, just for you to learn):
```suggestion
  constructor
  · intro h
    exact Set.Subsingleton.eq_empty_or_singleton h
  · intro h
    rcases h with h | h
    · rw [h]
      simp
    · obtain ⟨a, ha⟩ := h
      subst ha
      simp
```

Now to golf:
```suggestion
  aesop (add simp Subsingleton.eq_empty_or_singleton)
```

Comment (JadAbouHawili) [reply Mathlib/Data/Set/Subsingleton.lean]: understood , thanks!

**Comment by JadAbouHawili** [comment]
-awaiting-author

**Comment by JadAbouHawili** [comment]
easy

**Comment by JadAbouHawili** [comment]
t-set-theory

**Review by vihdzp — APPROVED** [review]
I remember trying to look for this theorem a while ago, thanks!

**Comment by themathqueen** [comment]
@JadAbouHawili, sets (which are everywhere) and set theory (`t-set-theory`) are totally different things. That's why @vihdzp removed the label.

Thanks for the PR!

maintainer merge

**Comment by JadAbouHawili** [comment]
> @JadAbouHawili, sets (which are everywhere) and set theory (`t-set-theory`) are totally different things. That's why @vihdzp removed the label.
> 
> Thanks for the PR!
> 
> maintainer merge

could you elaborate? My understanding is that this label applies for any change related to Data/Set

edit: the above seems redundant given the t-data label. I think i see your point.

File: Mathlib/Data/Set/Subsingleton.lean [hunk 3]
```diff
@@ -63,6 +63,9 @@ theorem subsingleton_iff_singleton {x} (hx : x ∈ s) : s.Subsingleton ↔ s = {
 theorem Subsingleton.eq_empty_or_singleton (hs : s.Subsingleton) : s = ∅ ∨ ∃ x, s = {x} :=
   s.eq_empty_or_nonempty.elim Or.inl fun ⟨x, hx⟩ => Or.inr ⟨x, hs.eq_singleton_of_mem hx⟩
 
+theorem subsingleton_iff_eq_empty_or_singleton : s.Subsingleton ↔ s = ∅ ∨ ∃ x, s = {x} := by
+  aesop (add simp Subsingleton.eq_empty_or_singleton)
```
Comment (riccardobrasca) [inline Mathlib/Data/Set/Subsingleton.lean]:
```suggestion
theorem subsingleton_iff_eq_empty_or_singleton : s.Subsingleton ↔ s = ∅ ∨ ∃ x, s = {x} :=
  ⟨Subsingleton.eq_empty_or_singleton, by rintro (_ | ⟨_, rfl⟩) <;> simp_all⟩
```
The `aesop` proof seems a bit an overkill.

**Review by riccardobrasca — COMMENTED** [review]
Thanks!

bors d+

File: Mathlib/Data/Set/Subsingleton.lean (hunk 3 above)
Comment (JadAbouHawili) [reply Mathlib/Data/Set/Subsingleton.lean]: fair enough , in my original pr i had already realized the forward direction exists already in mathlib , while the other direction was a messy sequence of tactics.
